US05045556
70.4 g (0.41 mol) of 2,6-difluorophenylacetic acid, 700 ml of ethanol and 35 ml of concentrated sulphuric acid are heated under reflux for 3 hours. The reaction mixture is then concentrated by evaporation, taken up in dichloromethane and the solution is extracted by shaking in succession with water, 2N sodium carbonate solution and again with water. After drying over magnesium sulphate, the organic phase is concentrated by evaporation. The residue is dissolved in 560 ml of ethanol. After the addition of 30 ml (31 g; 0.62 mol) of hydrazine hydrate, the whole is heated under reflux for 4 days. After cooling, the resulting crystals are filtered off to yield 56.4 g (74% of the theoretical yield) of 2,6-difluorophenylacetic acid hydrazide which melts at 177°-178°.

reactant | 2,6-difluorophenylacetic acid | 0.41 mol, 70.4 g | FC1=C(C(=CC=C1)F)CC(=O)O | C8H6F2O2
reactant | sulphuric acid | 35 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrazine hydrate | 0.62 mol, 30 ml, 31 g | O.NN
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 2,6-difluorophenylacetic acid hydrazide | FC1=C(C(=CC=C1)F)CC(=O)NN | C8H8F2N2O
